US04889857
By the use of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2-(2-ethylaminoethyl)morpholine, the reaction is similarly carried out as Example 1 to give 1-ethyl-7-[2-(2-ethylaminoethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 2-(2-ethylaminoethyl)morpholine | C(C)NCCC1CNCCO1 | C8H18N2O
product | 1-ethyl-7-[2-(2-ethylaminoethyl)morpholino]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CCNCC)F)=O)C(=O)O | C20H25F2N3O4
